US07868180B2
A) Preparation of 4′-(2-butyl-4-chloro-5-hydroxymethyl-1H-imidazole-1-yl)-1,1′-biphenyl-2-carbonitrile
0.50 g (1.40 mmol) of potassium (2-cyanophenyl)-trifluoroboronate, 0.35 g (1.68 mmol, 1.2 eq.) of 2-n-butyl-1-p-bromobenzyl-4-chloro-1H-imidazole-5-ylmethanol (assay: 93%), 3.00 mg (0.014 mmol, 0.01 eq.) of palladium acetate, 17 mg (0.056 mmol, 0.04 eq.) of tri-o-tolylphosphine were given into a dried flask equipped with reflux condenser. The flask was capped with a septum and filled with argon in three cycles. 10 mL of 95% aqueous ethanol, saturated with argon and 0.50 mL (4 eq.) of diisopropyethylamine saturated with argon were added to the flask via a syringe. The reaction mixture was heated and refluxed for 12 hours. Color changes from yellowish (palladium acetate) via red-brown (active palladium species) up to precipitation of inactive palladium black were observed. The precipitation of palladium black occurred after 6 hours. Then, the reaction mixture was opened to the atmosphere and the solvent was evaporated under vacuo. 1.00 g of silica gel was added to the residue, moistened with 5.00 mL of ethyl acetate and the solvent was evaporated. The reaction mixture deposited on silica gel was transferred on the top of a short silica gel column (10 g of silica gel with ethyl acetate-hexane 1:1 (v/v)) and the column was eluted with ethyl acetate-hexane 1:1 (v/v). Evaporation of the solvent afforded 0.50 g (94%, assay: 90%) of a crude yellowish solid product. The obtained material was crystallized from ethyl acetate-hexane providing 0.45 g (84%) of 4′-(2-butyl-4-chloro-5-hydroxymethyl-1H-imidazole-1-yl)-1,1′-biphenyl-2-carbonitrile in form of a white crystalline solid (m.p. 154.1-155.5° C.). 1H NMR (300 MHz, CDCl3, δ): 7.77 dd (1H), 7.65 ddd (1H), 7.53 d (2H), 7.42-7.50 m (2H), 7.12 d (2H), 5.29 s (2H), 4.53 d (2H), 2.60 t (2H), 1.68 m (2H), 1.36 m (2H), 0.89 t (3H)

reactant | 2-n-butyl-1-p-bromobenzyl-4-chloro-1H-imidazole-5-ylmethanol | 1.68 mmol, 0.35 g, 1.2 eq. | C(CCC)C=1N(C(=C(N1)Cl)CO)CC1=CC=C(C=C1)Br | C15H18BrClN2O
reactant | tri-o-tolylphosphine | 0.056 mmol, 17 mg, 0.04 eq. | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | diisopropyethylamine | 0.50 mL, 4 eq. | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | palladium acetate | 0.014 mmol, 3.00 mg, 0.01 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4′-(2-butyl-4-chloro-5-hydroxymethyl-1H-imidazole-1-yl)-1,1′-biphenyl-2-carbonitrile | C(CCC)C=1N(C(=C(N1)Cl)CO)C1=CC=C(C=C1)C=1C(=CC=CC1)C#N | C21H20ClN3O
